US05168103
To a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (5.0 mL, 34 mmol) in absolute ethanol (180 mL) prepared under nitrogen, was added a solution of [3-[[2-(diethoxyphosphinyl)ethyl]amino]-2-hydroxypropyl]carbamic acid 1,1-dimethylethyl ester (12.11 g, 34 mmol) in ethanol (60 mL) over 1 hour. The reaction mixture was stirred at room temperature overnight and then concentrated in vacuo. The residue was dissolved in chloroform (150 mL), preadsorbed onto silica gel, and purified by flash chromatography (7 cm diameter, gradient elution with 2.5-15% methanol in dichloromethane) to yield [3-[[2-(diethoxyphosphinyl)ethyl](2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]-2-hydroxypropyl]carbamic acid 1,1-dimethylethyl ester as a clear viscous oil (11.34 g, 70%; IR (neat, cm-1):3350, 1800, 1700: 1H NMR (CDCl3 400 MHz): δ 5.37, 5.19 (br s, NH), 4.82-4.72 (m, 3H), 4.16-3.11 (m, 11H), 2.24-2.14 (m, 2H), 1.47-1.43 (m, 12H), 1.32 (t, J=7 Hz, 6H).

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 34 mmol, 5.0 mL | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | [3-[[2-(diethoxyphosphinyl)ethyl]amino]-2-hydroxypropyl]carbamic acid 1,1-dimethylethyl ester | 34 mmol, 12.11 g | CC(C)(C)OC(NCC(CNCCP(=O)(OCC)OCC)O)=O | C14H31N2O6P
solvent | ethanol | 180 mL | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | [3-[[2-(diethoxyphosphinyl)ethyl](2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]-2-hydroxypropyl]carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NCC(CN(C1=C(C(C1=O)=O)OCC)CCP(=O)(OCC)OCC)O)=O | C20H35N2O9P
